US09062066B2
The synthesis of 3-(difluoromethyl)aniline
100 mg of Fe was added intio 3 ml of acetic acid and refluxed for 15 minutes. After lowering the temperature into room temperature, the mixture was added with 1-(difluoromethyl)-3-nitrobenzene (0.2 g, 1.15 mmol) and refluxed again for 1 hour. After addition of 20 ml ethyl acetate, impurities were removed using cellite and the organic layer was concentrated under vacuum. After column chromatography (ethylacetate/n-hexane, 1/15), the title compound (0.16 g, 50%) was obtained.

reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | 1-(difluoromethyl)-3-nitrobenzene | 1.15 mmol, 0.2 g | FC(C1=CC(=CC=C1)[N+](=O)[O-])F | C7H5F2NO2
catalyst | Fe | 100 mg | [Fe] | Fe
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-(difluoromethyl)aniline | 0.16 g, 50% | FC(C=1C=C(N)C=CC1)F | C7H7F2N
